US04228166
A mixture of 9.5 grams (0.085 mol) of 1-hydrazino-3-methyl-2-butanol, 14.4 grams (0.070 mol) of 3-(p-chlorobenzoyl)-propanoic acid and 100 milliliters of toluene are stirred in a flask equipped with a condenser and Dean-Stark water collecting apparatus at reflux for about 2.0 hours during which 2.8 milliliters of water is collected in the Dean-Stark tube. The toluene solution is washed with 50 milliliters of 2 N sodium hydroxide solution, 25 ml. of 2 N hydrochloric acid and then water. The toluene layer is then dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo. The solid obtained is crystallized from methylene chloride-petroleum ether to yield 19.0 grams of 2-(2-hydroxy-3-methylbutyl)-6-(p-chlorophenyl)4,5-dihydropyridazine-3(2H)-one, (m.p. 90°-92° C.)

reactant | 1-hydrazino-3-methyl-2-butanol | 0.085 mol, 9.5 grams | N(N)CC(C(C)C)O | C5H14N2O
reactant | 3-(p-chlorobenzoyl)-propanoic acid | 0.070 mol, 14.4 grams | ClC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9ClO3
reactant | toluene | 100 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | water | 2.8 milliliters | O | H2O
product | 2-(2-hydroxy-3-methylbutyl)-6-(p-chlorophenyl)4,5-dihydropyridazine-3(2H)-one | 19.0 grams | OC(CN1N=C(CCC1=O)C1=CC=C(C=C1)Cl)C(C)C | C15H19ClN2O2
